US05034404
To a mixture of 1.35g of S-methyl-N-nitroisothiourea and 5ml of acetonitrile was added 0.88g of diethylamine, followed by stirring for 6 hours in an oil bath of 60° C. The reaction mixture was concentrated and the residue was purified by a column chromatography [developing solvent: dichloromethanemethanol (20:1)] to afford 0.85g of N,N-diethyl-N'-nitroguanidine as a white solid.

reactant | S-methyl-N-nitroisothiourea | 1.35g | CSC(N[N+](=O)[O-])=N | C2H5N3O2S
reactant | diethylamine | 0.88g | C(C)NCC | C4H11N
solvent | acetonitrile | 5ml | C(C)#N | C2H3N
product | N,N-diethyl-N'-nitroguanidine | 0.85g | C(C)N(C(=N)N[N+](=O)[O-])CC | C5H12N4O2
